US07863417B2
Palm-Lys-Val-Lys-OH *2AcOH
The protective peptide is built on 1.00 g (0.80 mmol) of H-Lys(Boc)-2-chlorotrityl resin using Fmoc-Val-OH, Fmoc-Lys(Boc)-OH and Palm-OSu. The resin is treated for 30 min with 8 ml of TFA 95% and the solution is instilled in 100 ml of Et2O. The precipitate is sucked off, washed and purified by prep. HPLC after drying. The substance is diluted in 30 ml of dioxan:water=4:6, treated overnight with 2.0 g of BioRad resin (acetate form), filtered, rotated and lyophilized. Yield: 110 mg (0.15 mmol, 19%)

reactant | H-Lys(Boc)-2-chlorotrityl resin | 0.80 mmol, 1.00 g | CC(C)(C)OC(=O)NCCCC[C@@H](C(=O)O)N | C11H22N2O4
reactant | Fmoc-Val-OH | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H21NO4
reactant | Fmoc-Lys(Boc)-OH | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H32N2O6
reactant | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | Lys-Val-Lys-OH | N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCCN)C(=O)O | C17H35N5O4
